US06806274B1
1-(2,6-dimethylphenyl)-3-[6-methoxy-7-(N-methylpiperidin-4-ylmethoxy)quinazolin-4-yl]guanidine
Mercuric(II) oxide (0.059 g) was added to a mixture of 1-(2,6-dimethylphenyl)-3-[6-methoxy-7-(N-methylpiperidin-4-ylmethoxy)quinazolin-4-yl]thiourea (0.105 g), a 2M solution of ammonia in methanol (3 ml) and chloroform (1 ml) and the reaction mixture was stirred at ambient temperature for 2 hours. The mixture was evaporated and the residue was purified by column chromatography on silica using increasingly polar mixtures of methylene chloride and a 2M solution of ammonia in methanol as eluent. There was thus obtained the title compound (0.074 g); NMR Spectrum: (CDCl3) 1.39-1.53 (m, 2H), 1.87-2.02 (q, 5H), 2.29 (s, 3H), 2.36 (s, 6H), 2.9 (d, 2H), 4.01 (m, 5H), 5.79 (br s, 1H), 7.16 (s, 1H), 7.19 (m, 3H), 7.87 (s, 1H), 8.57 (s, 1H); Mass Spectrum: M+H+ 449.

reactant | 1-(2,6-dimethylphenyl)-3-[6-methoxy-7-(N-methylpiperidin-4-ylmethoxy)quinazolin-4-yl]thiourea | 0.105 g | CC1=C(C(=CC=C1)C)NC(=S)NC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C | C25H31N5O2S
reactant | ammonia | N | H3N
solvent | methanol | 3 ml | CO | CH4O
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(2,6-dimethylphenyl)-3-[6-methoxy-7-(N-methylpiperidin-4-ylmethoxy)quinazolin-4-yl]guanidine | 0.074 g | CC1=C(C(=CC=C1)C)NC(=N)NC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C | C25H32N6O2
